US04956359
3-[(4-Chlorophenyl)thio]-1-azetidinecarbonyl chloride
A stirred mixture of 8.5 g (0.086 mole) of phosgene and 12 g (0.086 mole) of potassium carbonate in 200 ml of methylene chloride was cooled in a water bath under nitrogen atmosphere while 26.3 g (0.072 mole) of 3-[(4-chlorophenyl)thio]-1-diphenylmethylazetidine in 100 ml of methylene chloride was added dropwise. After the addition, the reaction mixture was stirred for 20 hr then treated with enough ice to form a thick paste. The methylene chloride solution was decanted, filtered through Whatman phase separating paper and concentrated in vacuo. The residue (40 g) was triturated 3 times at -78° C. with 30/60 petroleum ether and allowed to warm to 0° C. before decanting the petroleum ether. The fine granular solid which remained was collected by filtration to yield 14.1 g (75%) of crude product. A sample was recrystallized from hexanes for analysis, m.p. 47°-48° C.

reactant | phosgene | 0.086 mole, 8.5 g | C(=O)(Cl)Cl | CCl2O
reactant | potassium carbonate | 0.086 mole, 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-[(4-chlorophenyl)thio]-1-diphenylmethylazetidine | 0.072 mole, 26.3 g | ClC1=CC=C(C=C1)SC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C22H20ClNS
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-[(4-Chlorophenyl)thio]-1-azetidinecarbonyl chloride | 14.1 g, 75% | ClC1=CC=C(C=C1)SC1CN(C1)C(=O)Cl | C10H9Cl2NOS
